US09169215B2
A dilute solution of 2-(4-bromophenyl)-3-(cyclopentylamino)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile (500 mg, 1.35 mmol) in DMSO (100 mL) was stored at RT for more than 60 days. The yellow DMSO solution was poured into water (1 L) and the organic compound was extracted into ethyl acetate (2×75 mL). The combined extracts were washed with water and brine solution. The organic layer was dried over anhydrous MgSO4, filtered and concentrated to give the crude yellow solid which was not soluble in dichloromethane even at hot condition. Then, after cooling to RT, the solids were collected by filtration and washed with dichloromethane and the 1H NMR of this solid indicated that it is mostly starting material. Whereas, the mother liquor was removed under vacuum and the crude residue was purified using an ISCO (80 g) column eluting with 0-35% ethyl acetate in hexanes. The pure fractions were combined and the solvent was removed under vacuum to obtain 113 mg (21.7% yield) of (E)-5-amino-1-(1-(cyclopentylimino)-2-(4-bromophenyl)-2-oxoethyl)-1H-pyrazole-4-carbonitrile as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.40-1.80 (br m, 8H), 3.63 (p, 1H), 7.72 (s, 1H), 7.78 (d, J=6.1 Hz, 2H), 7.83 (d, J=6.2 Hz, 2H), 8.14 (br s, 2H). LC/MS calcd. for C17H16BrN5O (m/e) 386.25, obsd. 387.2 (M+H, ES+).

reactant | 2-(4-bromophenyl)-3-(cyclopentylamino)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 1.35 mmol, 500 mg | BrC1=CC=C(C=C1)C=1NC=2N(N=CC2C#N)C1NC1CCCC1 | C17H16BrN5
reactant | water | 1 L | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | (E)-5-amino-1-(1-(cyclopentylimino)-2-(4-bromophenyl)-2-oxoethyl)-1H-pyrazole-4-carbonitrile | 113 mg, 21.7% yield | NC1=C(C=NN1/C(/C(=O)C1=CC=C(C=C1)Br)=N/C1CCCC1)C#N | C17H16BrN5O
